US07091215B2
tert-Butyl N-[7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]carbamate
After dissolving [7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]amine (60 mg) and triethylamine (0.041 mL) in dichloromethane, di-tert-butyl dicarbonate (71 mg) was added while cooling on ice, and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the organic layer was washed with water and brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (59 mg) was obtained from the n-hexane:ethyl acetate (10:1) fraction as a light yellow oil.

reactant | [7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]amine | 60 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2N)CC | C15H13Cl2N3
reactant | triethylamine | 0.041 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 71 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-[7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]carbamate | 59 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)CC | C20H21Cl2N3O2
